US09422324B2
Methods of Preparing (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol (I)
(8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene—Chloromethyl methyl ether (7.0 mL, 92.0 mmol) is added to a solution of β-estradiol (5 g, 18.4 mmol) and diisopropylethylamine (16.0 mL 92 mmol) in 100 mL of THF. The reaction mixture is heated to reflux and stirred for 18 hours. The THF is removed in vacuo, and the yellow/brown oil is partitioned between water and CH2Cl2. The organic layer is separated, washed with brine, dried (Na2SO4), filtered, and evaporated in vacuo to give a golden oil. Purification by silica gel column chromatography (10% EtOAc/Hex) affords the title compound as a viscous, clear oil (5.7 g, 86%).

reactant | (8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene Chloromethyl methyl ether | 92.0 mmol, 7.0 mL | COCOC=1C=CC=2[C@H]3CC[C@@]4([C@H](CC[C@H]4[C@@H]3CCC2C1)OCOC)C.COCCl
reactant | β-estradiol | 18.4 mmol, 5 g | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@@H]2O)CCC4=C3C=CC(=C4)O | C18H24O2
reactant | diisopropylethylamine | 92 mmol, 16.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol | COCCCCCC[C@H]1C=2C=C(C=CC2[C@H]2CC[C@@]3(C(CC[C@H]3[C@@H]2C1)O)C)O | C25H38O3
